* Z:\opt\dropbox\dropbox\Dropbox\notes\pkb\electronics\speed_opt\Isense2.asc
B1 current 0 V=V(a)
V1 N001 0 SINE(0 1 1K)
R1 N002 0 1
XU1 N001 N002 a 0 Isense G=1
.tran 1
* elapsed time: 300m
.meas TRAN error AVG abs(I(R1)-V(current))
.lib pwr.sub
.backanno
.end
