* Z:\opt\dropbox\dropbox\Dropbox\notes\pkb\electronics\speed_opt\pwm1.asc
B1 N001 0 V=IF(V(clock)-A,1,0) tripdt={1m*T}
B2 N002 0 V=IF(V(clock)+A,1,0) tripdt={1m*T}
B3 clock 0 V=sin(w*time)
.param f 100k
.param T {1/f}
.param dt 0.01
.tran 0 {10*T} 0 {T/100}
* 90 ms\nNoJacob doesn't make it go any faster
.param w 2*PI*f
.param A = sin(PI*dt)
.step param p list 1 2 3 4 5 6 7 8 9 10
.backanno
.end
