* Z:\opt\dropbox\dropbox\Dropbox\notes\pkb\electronics\speed_opt\pwm2.asc
XU1 N003 pwm1 PWM Vin1=0 Vin2=1 Tperiod={T} Tdelay=0 tripdt=1m*Tperiod
V2 N003 0 0.5
A1 pwm1 0 0 0 0 pwm2 0 0 BUF
B4 N002 0 V=delay(V(pwm1),dt*T)
B5 N005 0 V=delay(V(pwm2),dt*T)
A2 pwm1 pwm1 pwm1 pwm1 N002 0 N001 0 AND
A3 pwm2 pwm2 pwm2 pwm2 N005 0 N004 0 AND
.param f 100k
.param T {1/f}
.param dt 0.01
.tran 0 {10*T} 0 {T/100}
* 60 ms
.lib LTspiceControlLibrary\PulseModulations.lib
.backanno
.end
